US08865713B2
Step B: 1-[6-Chloro-1-(2-methoxy-ethoxymethyl)-5-phenylsulfamoyl-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
Aniline (15.8 μL, 0.173 mmol) was added to a solution of 1-[6-chloro-5-chlorosulfonyl-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (75.0 mg, 0.157 mmol) in pyridine (0.79 mL) and the reaction mixture was allowed to stir at 23° C. for 1.5 h. At this point it was partitioned between EtOAc (20 mL) and water (20 mL). The aqueous layer was further extracted with EtOAc (20 mL) and the combined organic layers were washed with brine (10 mL), dried, filtered, and concentrated. The residue was purified via FCC (5-80% EtOAc/hexanes) to yield the titled compound (36.0 mg, 43% yield). MS (ESI/CI): mass calcd. for C23H24ClN5O6S, 533.1; m/z found, 534.1 [M+H]+.

reactant | Aniline | 0.173 mmol, 15.8 μL | NC1=CC=CC=C1 | C6H7N
reactant | 1-[6-chloro-5-chlorosulfonyl-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.157 mmol, 75.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)S(=O)(=O)Cl)Cl | C17H18Cl2N4O6S
solvent | pyridine | 0.79 mL | N1=CC=CC=C1 | C5H5N
product | 1-[6-Chloro-1-(2-methoxy-ethoxymethyl)-5-phenylsulfamoyl-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 36.0 mg, 43% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)S(NC2=CC=CC=C2)(=O)=O)Cl | C23H24ClN5O6S
